Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])=[C:12]([C:9]([C:4]([C:5]([H:6])([H:7])[H:8])[H:13])([H:10])[H:11])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C@@:4]1([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C@@:12]1([H:13])[C:14]([H:15])([H:16])[H:17],0.262442193441
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8][H:9]>>[H:1][C:2][O:3][C:4][C:5]([H:6])=[C:8][H:9].[H:7],0.6717849155969999
[H:1][O:2][O:3][C@@:4]([H:5])([C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])(=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3],0.29142454077
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[O:8][H:9]>>[C:7][O:8][H:9].[H:1][C:2]=[C:3]([H:4])[C:5][H:6],5.09827458722
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[C:5]([H:6])=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4],4.34566612997
[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])=[C:9]([H:10])[H:11],2.07533971497
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([C:8]=[C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16],1.80960179732
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][C:11][C:12]([H:13])([H:14])[H:15].[H:1][C:2][H:3],5.2646573745300005
[C:1]=[C:2]([O:3][H:4])/[C:5]([H:6])=[C:7]\[C:8]([H:9])([H:10])[H:11]>>[C:1]#[C:2][O:3][H:4].[C:5]([H:6])#[C:7][C:8]([H:9])([H:10])[H:11],0.569758666271
[H:14].[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1]=[C:2]([C:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-4.577400208949999
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:12]([H:13])[H:14],5.0890398527
[C:3]#[C:4][C:5]([H:6])([H:7])[H:8].[O:1]=[C:2][O:9][H:10]>>[O:1]=[C:2]([C:3]#[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10],-5.4876740301
[H:3].[O:1]=[C:2][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-4.39579021261
[H:8].[O:1]=[C:2]=[C:3][O:4][C:5]#[C:6][H:7]>>[O:1]=[C:2]=[C:3][O:4][C:5]=[C:6]([H:7])[H:8],-2.61808435039
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]=[C:13]([H:14])[H:15],-4.12051550555
[H:9].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])[O:10][H:11]>>[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[O:10][H:11],-3.5316258430800005
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.1998496237300005
[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15],-3.78760000165
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:10][H:11].[H:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11],-4.20546483809
[C:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[H:8]>>[C:1]=[O:2].[C:3]([O:4][H:5])=[C:6]([H:7])[H:8],-1.25784415624
[H:5].[O:1]=[C:2]([H:3])[C:4]([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][C:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.8373473132
[O:1]=[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:2]=[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12].[O:1],7.366258297130001
[O:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:6](#[C:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][O:2][C:3]([H:4])[H:5],0.427542184451
[H:1][O:2]/[C:3]([H:4])=[C:5]/[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])#[C:5][C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[H:1][O:2],2.95671274877
[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][O:2][C:3]([H:4])=[C:5]=[C:6]([H:7])[O:8][C:9]([H:10])[H:11],4.33048873632
[C:1]#[C:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[O:9])[H:10]>>[C:1]#[C:2][C:3]([H:4])=[C:5]([H:6])[H:7].[C:8](=[O:9])[H:10],2.66216584475
[H:15].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.56285697389
[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13],1.93080869724
